US04080361
Preparation of hexakis(butoxy)cyclotriphosphazene, Ib:
To a chilled solution (0°-5° C.) of triphosphonitrilic chloride (0.018 mole) in 26 ml of pyridine, butanol (0.34 mole) was added. The mixture was stirred at room temperature overnight, diluted with petroleum ether and washed with dilute HCl, NaHCO3, and water successively. After removal of solvent, the product IIa was obtained in a yield of 90%. Found (and calcd. for C24H54N3O6P3 /M.W. 574): C 47.32 (50.25); H 9.00 (9.49); and N 7.71 (7.33).

reactant | triphosphonitrilic chloride | 0.018 mole | N1=P(N=P(N=P1(Cl)Cl)(Cl)Cl)(Cl)Cl | Cl6N3P3
reactant | butanol | 0.34 mole | C(CCC)O | C4H10O
solvent | pyridine | 26 ml | N1=CC=CC=C1 | C5H5N
product | hexakis(butoxy)cyclotriphosphazene | yield of 90% | C(CCC)OP1(=NP(=NP(=N1)(OCCCC)OCCCC)(OCCCC)OCCCC)OCCCC | C24H54N3O6P3
